US04755535
B. Preparation of 3-Bromo azacycloheptan-2-one
A solution of 16 g (59 mmol) of 3,3-dibromoazacycloheptan-2-one, 150 ml of glacial acetic acid, 5.5 g (65 mmol) of sodium acetate, and 0.5 g of palladium on carbon (10%) was placed in a hydrogenator bottle and reduced under hydrogen at 30 psi. The mixture was filtered, and the filtrate distilled under vacuum to remove the acetic acid. The residue was neutralized with sat. Na2CO3, extracted into CH2Cl2, dried over MgSO4, and concentrated to yield 10.8 g (95%) of the product as an off-white solid; mp 109°-111° C.; NMR (CDCl3) 7.2 (1 H,m), 4.6 (1 H,m), 3.4 (2 H,m), 2.1 (4 H,m), 1.7 (2 H,m).

reactant | 3,3-dibromoazacycloheptan-2-one | 59 mmol, 16 g | BrC1(C(NCCCC1)=O)Br | C6H9Br2NO
reactant | sodium acetate | 65 mmol, 5.5 g | C(C)(=O)[O-].[Na+]
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 3-Bromo azacycloheptan-2-one | 10.8 g, 95% | BrC1C(NCCCC1)=O | C6H10BrNO
